US07723349B2
To a solution of tert-butyl(6S,7S)-6-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}amino)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate (140 mg, 0.27 mmol) in methanol (3.0 mL) was added formaldehyde (37% solution in water, 0.5 mL) and sodium triacetoxyborohydride (0.25 g, 1.2 mmol). The mixture was then stirred at room temperature for 2 h. The reaction was diluted with ethyl acetate, washed with saturated NaHCO3, water and brine. Dried and concentrated tert-butyl(6S,7S)-5-methyl-6-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}amino)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate (105.0 mg) was obtained by column using CH2Cl2/Methanol (10%). ESI (M+H)+516.5.

reactant | tert-butyl(6S,7S)-6-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}amino)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate | 0.27 mmol, 140 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)NC(=O)[C@H]1NCC2(CC2)C[C@@H]1C(=O)OC(C)(C)C | C30H35N3O4
reactant | formaldehyde | 0.5 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.2 mmol, 0.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 3.0 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl(6S,7S)-5-methyl-6-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}amino)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate | 105.0 mg | CN1CC2(CC2)C[C@@H]([C@H]1C(=O)NC1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC(C)(C)C | C31H37N3O4
